US08685969B2
4. 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a solution of ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate (0.3539 g, 0.627 mmol) in THF (17.4 mL) and MeOH (5.8 mL) was added a solution of lithium hydroxide hydrate (0.105 g, 2.507 mmol) in water (3 mL). After 1 hr, the reaction was concentrated in vacuo. Water (12 mL) was added, and the solution was acidified with aqueous 1N HCl to pH 5-6 by litmus paper. The precipitate was filtered, washed with water, dried over Drierite to give the desired product (0.286 g, 0.533 mmol, 85% yield) as an orange solid.

reactant | ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate | 0.627 mmol, 0.3539 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)OCC)C | C33H32N4O5
reactant | lithium hydroxide hydrate | 2.507 mmol, 0.105 g | O.[OH-].[Li+]
solvent | THF | 17.4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5.8 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.533 mmol, 0.286 g, 85% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)O)C | C31H28N4O5
